US06004977
To a solution of 2-(3-fluoro-4-methoxyphenyl)-4,4-dimethyl-4,5-dihydrooxazole (34.0 g) in dry tetrahydrofuran (300 ml) sec-butyllithium (140 ml of a 1.3 M solution in cyclohexane) was added dropwise at -78° C. with stirring, under nitrogen. The reaction mixture was stirred 15 mins, and carbon dioxide was bubbled below the surface. The reaction was stirred for 1 hr and water added dropwise. The mixture was basified with 10% sodium hydroxide solution and extracted with ethyl acetate. The aqueous extract was cooled to 0° C. and an equal volume of concentrated hydrochloric acid was added dropwise. The solution was stirred, under reflux overnight, cooled and the solid collected. The solid was washed with cold water and dried in vacuo to give 26.6 g of 3-fluoro-4-methoxyphthalic acid. A mixture of 3-fluoro-4-methoxyphthalic acid (26.6 g ) in acetic anhydride (100 ml) was stirred, under reflux, under nitrogen, for 4 hrs. The reaction mixture was cooled to -60° C. and filtered. The solid was collected, washed with ether and dried in vacuo to give 19.9 g (67%) of 3-fluoro-4-methoxyphthalic anhydride, mp 128-130° C. A mixture of 3-fluoro-4-methoxyphthalic anhydride (10.0 g) and 4-hydrazinopyridine hydrochloride (7.42 g) in glacial acetic acid (50 ml) was stirred, under reflux, under nitrogen, for 4 hrs and stirred at ambient temperature overnight. The solid was collected, washed with ether and dried in vacuo at 80° C. overnight to give 10.6 g (64%) of 4-fluoro-5-methoxy-2-(4-pyridinylamino)isoindol-1,3-dione. To a mixture of lithium aluminum hydride (3.72 g) and dry tetrahydrofuran (100 ml), 4-fluoro-5-methoxy-2-(4-pyridinylamino)isoindole-1,3-dione hydrochloride (10.60 g) was added in portions with rapid stirring, under nitrogen, at ambient temperature. The reaction mixture was stirred at ambient temperature, under nitrogen, for 3 hrs, and sodium sulfate decahydrate was added in portions. The mixture was filtered through a bed of celite, the filter pad was washed with ethyl acetate, and the filtrate was concentrated in vacuo. The residue was chromatographed over silica gel, eluting with 7% methanol-dichloromethane followed by 185:14:1 dichloromethane:methanol:ammonium hydroxide. The residue was crystallized from absolute ethanol to give 3.2 g (8%) of product, (dried under vacuum at 80° C. overnight) mp 206-210° C.

reactant | 3-fluoro-4-methoxyphthalic anhydride | 10.0 g | FC1=C2C(C(=O)OC2=O)=CC=C1OC | C9H5FO4
reactant | 4-hydrazinopyridine hydrochloride | 7.42 g | Cl.N(N)C1=CC=NC=C1
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4-fluoro-5-methoxy-2-(4-pyridinylamino)isoindol-1,3-dione | 10.6 g, 64% | FC1=C2C(N(C(C2=CC=C1OC)=O)NC1=CC=NC=C1)=O | C14H10FN3O3
